US04565875
To a stirred suspension of N-(5-cyano-1H-imidazol-4-yl)-4-pyridinecarboxamide (0.53 g, 0.0025 mole), which can be made by the procedure of Example 1 substituting isonicotinoyl chloride for the 3-fluorobenzoyl chloride, in 20 ml of ethyl acetate was added 3-chloroperbenzoic acid (0.65 g, 0.003 mole). The mixture was heated at reflux for 15 hours, cooled and the solid product collected by filtration. The solid was washed with ethyl acetate and dried under reduced pressure to give N-(5-cyano-1H-imidazol-4-yl)-4-pyridinecarboxamide N-oxide (0.52 g; mp, 290°).

reactant | N-(5-cyano-1H-imidazol-4-yl)-4-pyridinecarboxamide | 0.0025 mole, 0.53 g | C(#N)C1=C(N=CN1)NC(=O)C1=CC=NC=C1 | C10H7N5O
reactant | isonicotinoyl chloride | C(C1=CC=NC=C1)(=O)Cl | C6H4ClNO
reactant | 3-fluorobenzoyl chloride | FC=1C=C(C(=O)Cl)C=CC1 | C7H4ClFO
reactant | 3-chloroperbenzoic acid | 0.003 mole, 0.65 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | N-(5-cyano-1H-imidazol-4-yl)-4-pyridinecarboxamide N-oxide | 0.52 g | C(#N)C1=C(N=CN1)[NH+](C(=O)C1=CC=NC=C1)[O-] | C10H7N5O2
